US05859051
Step B: Preparation of 2-propenyloxydibenzofuran
A solution of 2-hydroxydibenzofuran (2.0 grams) was treated with allyl bromide (1.2 mL) and potassium carbonate (1.5 grams). The mixture was stirred over night at 60°. The reaction was partitioned between methylene chloride and water. The organic was washed once with water and dried over sodium sulfate. The organic layer was filtered and concentrated to an oil which was chromatographed over silica gel to afford the title compound.

reactant | 2-hydroxydibenzofuran | 2.0 grams | OC1=CC2=C(OC3=C2C=CC=C3)C=C1 | C12H8O2
reactant | allyl bromide | 1.2 mL | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 1.5 grams | C([O-])([O-])=O.[K+].[K+]
product | 2-propenyloxydibenzofuran | C(=CC)OC1=CC2=C(OC3=C2C=CC=C3)C=C1 | C15H12O2
